US05480884
1-Methyl-2-veratrylamino-5-methoxycarbonylpyrimidinium sulfate
To 400 mg of 1-methyl-2-veratrylamino-5-methoxycarbonylpyrimidinium hydroxide dissolved in 15 ml of anhydrous tetrahydrofuran, are added 85 μl (1.1 eq; 1.31 mmol) of methanesulfonic acid. The mixture is stirred under argon at room temperature for one hour. The precipitate is filtered, rinsed with tetrahydrofuran and ether and then dried (weight: 490 mg--yield: 96%).

reactant | 1-methyl-2-veratrylamino-5-methoxycarbonylpyrimidinium hydroxide | 400 mg | [OH-].C[N+]1=C(N=CC(=C1)C(=O)OC)NCC1=CC(OC)=C(OC)C=C1
reactant | methanesulfonic acid | 1.31 mmol, 85 μl, 1.1 eq | CS(=O)(=O)O | CH4O3S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-Methyl-2-veratrylamino-5-methoxycarbonylpyrimidinium sulfate | yield: 96% | S(=O)(=O)([O-])[O-].C[N+]1=C(N=CC(=C1)C(=O)OC)NCC1=CC(OC)=C(OC)C=C1.C[N+]1=C(N=CC(=C1)C(=O)OC)NCC1=CC(OC)=C(OC)C=C1 | InChI=1S/2C16H19N3O4.H2O4S/c2*1-19-10-12(15(20)23-4)9-18-16(19)17-8-11-5-6-13(21-2)14(7-11)22-3;1-5(2,3)4/h2*5-7,9-10H,8H2,1-4H3;(H2,1,2,3,4)
